US05990105
0.50 g (0.00177 mol) of 4-nitro-2,6-dibromopyridine and 0.29 g (0.00177 mol) of benzenesulphinic acid sodium salt were dissolved in 17 ml of dimethylformamide and stirred at 50° C. for 1 hr. The solvent was removed and the residue was partitioned in water and ethyl acetate. The combined organic phases were washed with sat. sodium chloride solution and dried over MgSO4. After filtration and removal of the solvent the residue was chromatographed on silica gel with ethyl acetate/hexane 1:4 and subsequently dried in a high vacuum. There was obtained 0.59 g (88.5%) of 4-benzenesulphonyl-2,6-dibromopyridine as white crystals; m.p.: 134-135° C.

reactant | 4-nitro-2,6-dibromopyridine | 0.00177 mol, 0.50 g | [N+](=O)([O-])C1=CC(=NC(=C1)Br)Br | C5H2Br2N2O2
reactant | benzenesulphinic acid sodium salt | 0.00177 mol, 0.29 g | [Na+].C1(=CC=CC=C1)S(=O)[O-]
solvent | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 4-benzenesulphonyl-2,6-dibromopyridine | 0.59 g, 88.5% | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)Br | C11H7Br2NO2S
